US07084170B2
5-(Cyano)thiophene-2-sulfonamide
A mixture of 5-bromothiophene-2-sulfonamide (0.50 g, 2.1 mmol), zinc cyanide (0.25 g, 2.1 mmol), tetrakis(triphenylphosphine)palladium(0) (0.072 g, 0.06 mmol) in dimethylformamide (5 mL, anhydrous) is placed under microwave radiation (under nitrogen atmosphere, 160° C.) for 15 min. Thin layer chromatography (5% methyl alcohol in methylene chloride) demonstrates the reaction is incomplete. Additional tetrakis-(triphenylphosphine)palladium(0) (0.24 g, 0.2 mmol) and dimethylformamide (10 mL) are added to the reaction mixture and placed under microwave radiation (under nitrogen atmosphere at 160° C.) for 37 min. 10 mL of water and 20 mL of ethyl acetate are added to the reaction mixture. The organic phase is separated and the aqueous layer is extracted with 20 mL ethyl acetate. The combined organic layers are dried over sodium sulfate, concentrated in vacuo, and then chromatographed on silica (0–5% methyl alcohol in methylene chloride) to give the title compound, as a white solid (0.22 g, 57% yield).

reactant | 5-bromothiophene-2-sulfonamide | 2.1 mmol, 0.50 g | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
reactant | methyl alcohol | CO | CH4O
reactant | water | 10 mL | O | H2O
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | zinc cyanide | 2.1 mmol, 0.25 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.06 mmol, 0.072 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(Cyano)thiophene-2-sulfonamide | C(#N)C1=CC=C(S1)S(=O)(=O)N | C5H4N2O2S2
